US04342765
To a solution of 2-(2-methylguanidino)-4-(3-aminocyclohexyl)thiazole (0.5 g.) in methanol (15 ml.) was added dimethyl(cyanoimido)dithiocarbonate (0.3 g.) and the resulting solution allowed to stand at room temperature overnight. Concentration of the reaction mixture gave 2-(2-methylguanidino)-4-[3-(3-cyano-2-methylisothioureido)cyclohexyl]thiazole, m.p. 200°-204° (decomp.).

reactant | 2-(2-methylguanidino)-4-(3-aminocyclohexyl)thiazole | 0.5 g | CN=C(NC=1SC=C(N1)C1CC(CCC1)N)N | C11H19N5S
solvent | methanol | 15 ml | CO | CH4O
product | 2-(2-methylguanidino)-4-[3-(3-cyano-2-methylisothioureido)cyclohexyl]thiazole | CN=C(NC=1SC=C(N1)C1CC(CCC1)NC(SC)=NC#N)N | C14H21N7S2
